US08349850B2
The 2-(hydroxymethyl)-4H-chromen-4-one was dissolved in 30 ml of anhydrous chloroform at room temperature, 1 ml of thionyl chloride was added to the solution, and reaction mixture was stirred at room temperature for 24 hours. The solvent was thereafter evaporated, and the obtained liquid was dissolved in anhydrous hexane, which was also evaporated again to give 2-(chloromethyl)-4H-chromen-4-one which was further reacted without purification.

reactant | 2-(hydroxymethyl)-4H-chromen-4-one | OCC=1OC2=CC=CC=C2C(C1)=O | C10H8O3
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(chloromethyl)-4H-chromen-4-one | ClCC=1OC2=CC=CC=C2C(C1)=O | C10H7ClO2
